US04999356
A stirred mixture of 5.0 g of 3-(1-piperazinyl)-1-[4(trifluoromethyl)phenyl]-1H-indazole hydrochloride, 2.2 g of potassium carbonate, and 1.4 g of chloromethylcyclopropane in 50 ml of dimethylformamide was heated at 85°-90° for 20 hours. The reaction mixture was poured into water and the aqueous suspension extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated to an oil. The oil was flash chromatographed on silica gel utilizing ethyl acetate as the eluent. Concentration of the appropriate fractions gave 2.7 g (48%) of 3-[4-(cyclopropyl)methyl-1piperazinyl]-1-[4-(trifluoromethyl)phenyl]-1H-indazole, mp 98°-100°.

reactant | 3-(1-piperazinyl)-1-[4(trifluoromethyl)phenyl]-1H-indazole hydrochloride | 5.0 g | Cl.N1(CCNCC1)C1=NN(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethylcyclopropane | 1.4 g | ClCC1CC1 | C4H7Cl
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[4-(cyclopropyl)methyl-1piperazinyl]-1-[4-(trifluoromethyl)phenyl]-1H-indazole | 2.7 g, 48% | C1(CC1)CN1CCN(CC1)C1=NN(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C22H23F3N4
